US07273878B2
To 5 ml of N,N-dimethylformamide were dissolved 0.57 g (2.8 mmol) of 3-methyl-1-phenyl-1H-pyrazole-4-carboxylic acid, obtained in accordance with a method described in J. Chem. Soc., page 2736 (1961), and 0.58 g (2.9 mmol) of 4,4-difluoro-3-methyl-3-butenyl methanesulfonate, followed by the addition of 0.48 g (5.7 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:6) to obtain 0.66 g (yield: 76%) of 4,4-difluoro-3-methyl-3-butenyl 3-methyl-1-phenyl-1H-pyrazole-4-carboxylate.

reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 3-methyl-1-phenyl-1H-pyrazole-4-carboxylic acid | 2.8 mmol, 0.57 g | CC1=NN(C=C1C(=O)O)C1=CC=CC=C1 | C11H10N2O2
reactant | 4,4-difluoro-3-methyl-3-butenyl methanesulfonate | 2.9 mmol, 0.58 g | CS(=O)(=O)OCCC(=C(F)F)C | C6H10F2O3S
reactant | sodium hydrogencarbonate | 5.7 mmol, 0.48 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 4,4-difluoro-3-methyl-3-butenyl 3-methyl-1-phenyl-1H-pyrazole-4-carboxylate | 0.66 g, yield: 76% | CC1=NN(C=C1C(=O)OCCC(=C(F)F)C)C1=CC=CC=C1 | C16H16F2N2O2
